US07994174B2
Prepared using General Procedure 3. To a stirring solution of di-tert-butyl-azodicarboxylate (44 mg, 0.05 mmol) and THF (0.5 mL), under N2, at 0° C., was added tributylphosphine (48 mg, 0.19 mmol), dropwise over 5 minutes. The colourless solution was stirred at 0° C. for 30 minutes. A solution of (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-(5-(N-thiazol-2-ylsulfamoyl)pyridine-2-yl)butanamide (24 mg, 0.05 mmol) in THF (0.5 mL) was added dropwise over 5 minutes. The solution was stirred at ambient temperature for 2 hours. To this solution was added H2O (40 uL) and the solution was evaporated to dryness. The residue was purified via reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave (S)-6-(3-(4-chloro-5-fluoroindolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=494.1; tR=1.69 min. 1H NMR (400 MHz, DMSO-d6) δ 8.78 (s, 1H), 8.43 (d, J=8.8 Hz, 1H), 8.20 (dd, J=8.9, 2.5 Hz, 1H), 7.30 (d, J=4.6 Hz, 1H), 7.01 (t, J=9.2 Hz, 1H), 6.87 (d, J=4.6 Hz, 1H), 6.48 (dd, J=8.7, 3.6 Hz, 1H), 4.89 (q, J=6.6 Hz, 1H), 4.18 (t, J=9.7 Hz, 1H), 3.84-3.77 (m, 1H), 3.65-3.59 (m, 1H), 3.39-3.37 (m, 1H), 3.05-2.98 (m, 2H), 2.38-2.31 (m, 1H), 2.21-2.10 (m, 1H).

reactant | di-tert-butyl-azodicarboxylate | 0.05 mmol, 44 mg | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
reactant | tributylphosphine | 0.19 mmol, 48 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-(5-(N-thiazol-2-ylsulfamoyl)pyridine-2-yl)butanamide | 0.05 mmol, 24 mg | ClC1=C2CCN(C2=CC=C1F)[C@H](C(=O)NC1=NC=C(C=C1)S(NC=1SC=CN1)(=O)=O)CCO | C20H19ClFN5O4S2
reactant | H2O | 40 uL | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (S)-6-(3-(4-chloro-5-fluoroindolin-1-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | ClC1=C2CCN(C2=CC=C1F)[C@@H]1C(N(CC1)C1=CC=C(C=N1)S(=O)(=O)NC=1SC=CN1)=O | C20H17ClFN5O3S2
